US05646173
13.7 g of 8-methoxy-1-tetralone were dissolved in 140 ml of toluene under argon and added to 13.3 ml of 3-buten-2-ol, 14.2 ml of 2,2-dimethoxypropane and 300 mg of p-toluenesulfonic acid. The reaction solution was heated to reflux for 90 hours. The solvent was removed in a vacuum and the residue was chromatographed on 500 g of silica gel firstly with hexane/ethyl acetate 9:1, then with hexane/ethyl acetate 4:1 and finally with hexane/ethyl acetate 1:1. In addition to large amounts of unreacted educt (8.3 g) there were obtained 3.95 g (22%) of 2-(2-buten-1-yl)-8-methoxy-1-tetralone as a yellow oil.

reactant | 8-methoxy-1-tetralone | 13.7 g | COC=1C=CC=C2CCCC(C12)=O | C11H12O2
reactant | 3-buten-2-ol | 13.3 ml | CC(C=C)O | C4H8O
reactant | 2,2-dimethoxypropane | 14.2 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-buten-1-yl)-8-methoxy-1-tetralone | 3.95 g, 22% | C(C=CC)C1C(C2=C(C=CC=C2CC1)OC)=O | C15H18O2
